US06245761B1
2-[(4-chlorophenoxy)methyl]-1-methyl-3-[1-hydroxy-2-(4-methylpiperidin-1-yl)ethyl]-1H-indole (Example 48)
Under a nitrogen atmosphere a round bottom flask was charged with 2-[(2,4-dichlorophenoxy)methyl]-1-methyl-3-[2-[N-methyl-N-(1-methylpiperidin-4-yl)amino]-1,2-ethanedionyl]-1H-indole (0.3349 g, 0.686 mmol) and placed in an ice bath Borane-tetrahydrofuran complex (4.11 ml of a 1.0 M borane solution in THF, 4.11 mmol) was added slowly and the ice bath was removed. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was stirred for about one hour and then 0.33 ml of a 1:1 tetrahydrofuran:methanol solution was added. Sodium hydroxide (1.74 ml of a 5.0 N solution) was then added and the resulting mixture was heated to reflux and maintained at this temperature overnight.

reactant | 2-[(2,4-dichlorophenoxy)methyl]-1-methyl-3-[2-[N-methyl-N-(1-methylpiperidin-4-yl)amino]-1,2-ethanedionyl]-1H-indole | 0.686 mmol, 0.3349 g | ClC1=C(OCC=2N(C3=CC=CC=C3C2C(C(=O)N(C2CCN(CC2)C)C)=O)C)C=CC(=C1)Cl | C25H27Cl2N3O3
reactant | borane | 1.0 M | B | BH3
reactant | THF | C1CCOC1 | C4H8O
product | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[1-hydroxy-2-(4-methylpiperidin-1-yl)ethyl]-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2C(CN2CCC(CC2)C)O)C)C=C1 | C24H29ClN2O2
